US06472404B1
A stirred solution of 255 mg (0.4 mmol) of N-tert-butyl-1,2,3,4,4a(S),5,6,7,8,8a(S)-decahydro-2-[2(R)-hydroxy-3(S)-[[3-(methanesulfonyl)-N-(thiocarbamoyl)-L-valyl]amino]-4-phenylbutyl]-3(S)-isoquinolinecarboxamide in 5 ml of ethanol was treated with 0.1 ml of chloroacetaldehyde (50% solution in water) and heated at reflux for 4 hours. The volatiles were evaporated and the residue partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate. The aqueous phase was extracted with dichloromethane and the combined organic phase was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give a solid which was chromatographed on silica eluting with dichloromethane/methanol (19:1) to give 100 mg (38%) of N-tert-butyl-1,2,3,4,4a(S),5,6,7,8,8a(S)-decahydro-2-[2(R)-hydroxy-3(S)-[[3-(methanesulfonyl)-N-(2-thiazolyl)-L-valyl]amino]-4-phenylbutyl]-3(S)-isoquinolinecarboxamide as a white solid, [M+H]+ 662.2.

reactant | N-tert-butyl-1,2,3,4,4a(S),5,6,7,8,8a(S)-decahydro-2-[2(R)-hydroxy-3(S)-[[3-(methanesulfonyl)-N-(thiocarbamoyl)-L-valyl]amino]-4-phenylbutyl]-3(S)-isoquinolinecarboxamide | 0.4 mmol, 255 mg | C(C)(C)(C)NC(=O)[C@H]1N(C[C@H]2CCCC[C@H]2C1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(N)=S)C(C)(C)S(=O)(=O)C)=O)O | C31H51N5O5S2
reactant | chloroacetaldehyde | 0.1 ml | ClCC=O | C2H3ClO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-tert-butyl-1,2,3,4,4a(S),5,6,7,8,8a(S)-decahydro-2-[2(R)-hydroxy-3(S)-[[3-(methanesulfonyl)-N-(2-thiazolyl)-L-valyl]amino]-4-phenylbutyl]-3(S)-isoquinolinecarboxamide | 100 mg, 38% | C(C)(C)(C)NC(=O)[C@H]1N(C[C@H]2CCCC[C@H]2C1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC=1SC=CN1)C(C)(C)S(=O)(=O)C)=O)O | C33H51N5O5S2
